US09428508B2
To a solution of N-cyclohexyl-2-nitrobenzenesulfonamide (25.7 g, 90.5 mmol) in methanol (500 mL) was added palladium on carbon (10%). The mixture was stirred under an atmosphere of hydrogen for 12 hours. The catalyst was removed by filtration and the filtrate was evaporated to afford the product 2-amino-N-cyclohexylbenzenesulfonamide (22 g, yield 95.7%). 1H NMR (400 MHz, CDCl3) δ ppm 7.72-7.74 (dd, 1H, J=1.2 Hz, 8.0 Hz), 7.27-7.33 (m, 1H), 6.75-6.82 (m, 2H), 4.84 (s, 3H), 3.05-3.07 (m, 1H), 1.59-1.70 (m, 4H), 1.46-1.50 (m, 1H), 1.08-1.22 (m, 5H).

reactant | N-cyclohexyl-2-nitrobenzenesulfonamide | 90.5 mmol, 25.7 g | C1(CCCCC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O4S
solvent | methanol | 500 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-amino-N-cyclohexylbenzenesulfonamide | 22 g, yield 95.7% | NC1=C(C=CC=C1)S(=O)(=O)NC1CCCCC1 | C12H18N2O2S
